US06756380B1
To a solution of 0.6 g (1.43 mmol) methylsulfanyl-5-o-tolyl-pyrimidine-4-carboxylic acid 3,5-dichloro-benzylamide in 10 ml N,N-dimethylformamide 0.073 g (1.85 mmol) sodiumhydride (60% dispersion in mineral oil) was added and the reaction stirred for 1 h. After the addition of 0.14 ml methyl iodide at 0°, the reaction mixture was stirred for 3 hrs at RT. The reaction mixture was distributed between 50 ml H2O, 50 ml brine and 50 ml CH2Cl2. The phases were separated and the aqueous layer washed twice with 50 ml CH2Cl2. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/ethyl acetate 40:1) to give 0.57 g (92%) 2-methylsulfanyl-5-o-tolyl-pyrimidine-4-carboxylic acid (3,5-dichloro-benzyl)-methyl-amide as a colorless oil, MS (ISP): 432.2, 434.2 (M+H+).

reactant | methylsulfanyl-5-o-tolyl-pyrimidine-4-carboxylic acid 3,5-dichloro-benzylamide | 1.43 mmol, 0.6 g | ClC=1C=C(CNC(=O)C2=NC(=NC=C2C2=C(C=CC=C2)C)SC)C=C(C1)Cl | C20H17Cl2N3OS
reactant | N,N-dimethylformamide | 1.85 mmol, 10 ml, 0.073 g | CN(C=O)C | C3H7NO
reactant | methyl iodide | 0.14 ml | CI | CH3I
reactant | H2O | 50 ml | O | H2O
solvent | brine | 50 ml | [Cl-].[Na+].O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-methylsulfanyl-5-o-tolyl-pyrimidine-4-carboxylic acid (3,5-dichloro-benzyl)-methyl-amide | 0.57 g, 92% | ClC=1C=C(CN(C(=O)C2=NC(=NC=C2C2=C(C=CC=C2)C)SC)C)C=C(C1)Cl | C21H19Cl2N3OS
